US07786040B2
2-(4-Cyclopropyl-1,2,3-thiadiazol-5-ylcarbonylamino)benzoic acid (0.77 g; 2.7 mmols), triethylamine (0.54 g; 5.3 mmols) and 2-chloro-1-methylpyridinium iodide (0.82 g; 3.2 mmols) were dissolved or suspended in THF (15 ml), followed by stirring at room temperature for 10 hours. Subsequently, insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. Crystals thus formed were washed with methanol to obtain 0.63 g of 2-(4-cyclopropyl-1,2,3-thiadiazol-5-yl)-4H-3,1-benzoxazin-4-one.

reactant | 2-(4-Cyclopropyl-1,2,3-thiadiazol-5-ylcarbonylamino)benzoic acid | 2.7 mmols, 0.77 g | C1(CC1)C=1N=NSC1C(=O)NC1=C(C(=O)O)C=CC=C1 | C13H11N3O3S
reactant | triethylamine | 5.3 mmols, 0.54 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 3.2 mmols, 0.82 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(4-cyclopropyl-1,2,3-thiadiazol-5-yl)-4H-3,1-benzoxazin-4-one | 0.63 g, Yield: 87% | C1(CC1)C=1N=NSC1C1=NC2=C(C(O1)=O)C=CC=C2 | C13H9N3O2S
